US08293758B2
N,N-dimethyl-4-phenyl-2-(phenylthio)-4′,9′-dihydro-3′H-spiro[cyclohexan-1,1′-pyrano[3,4-b]indole]-4-amine (Example No. 11, one of 4 Possible Racemic Diastereoisomer Pairs)
A mixture of (±)-4-dimethylamino-4-phenyl-2-thiophenylcyclohexanone (300 mg, 0.92 mmol) together with tryptophol (148 mg, 0.92 mmol) was dissolved in dichloromethane (50 ml) and mixed with trifluoromethane sulphonic acid trimethylsilyl ester (0.2 ml, 1.1 mmol). The batch was stirred for 20 h at RT. For work up the reaction mixture was mixed with 2N NaOH (10 ml) and stirred for 2 h. The organic phase was separated and the aqueous phase extracted with dichloromethane (4×20 ml). The combined organic phases were dried with MgSO4. The solvent was then removed in a vacuum. One of the four possible diastereoisomers was isolated from the residue obtained (420 mg) as vitreous solid, which solidified after rubbing with ethanol (2 ml), by means of chromatographic purification [silica gel 60 G (10 g); cyclohexane/ethyl acetate 4:1 (150 ml)]. The product could thus be obtained with a yield of 79 mg (18%) with a melting point of 228-233° C. (from 120° C. upon crystal transformation).

reactant | (±)-4-dimethylamino-4-phenyl-2-thiophenylcyclohexanone | 0.92 mmol, 300 mg | CN(C1(CC(C(CC1)=O)C=1SC=CC1)C1=CC=CC=C1)C | C18H21NOS
reactant | tryptophol | 0.92 mmol, 148 mg | C=1C=CC2=C(C1)C(=CN2)CCO | C10H11NO
reactant | trifluoromethane sulphonic acid trimethylsilyl ester | 1.1 mmol, 0.2 ml | C[Si](C)(C)OS(=O)(=O)C(F)(F)F | C4H9F3O3SSi
reactant | NaOH | 2N, 10 ml | [OH-].[Na+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N,N-dimethyl-4-phenyl-2-(phenylthio)-4′,9′-dihydro-3′H-spiro[cyclohexan-1,1′-pyrano[3,4-b]indole]-4-amine | CN(C1(CC(C2(OCCC3=C2NC2=CC=CC=C32)CC1)SC1=CC=CC=C1)C1=CC=CC=C1)C | C30H32N2OS
